US06022894
EXAMPLE 77: Preparation of N-[2-hydroxy-3-(6-phenylhexanoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 9, supra, 6-phenylhexylglycidyl ether (337 mg, 1.44 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (180 mg, 1 mmol) were used to prepare the title compound. Preparative TLC (20 cm×20 cm×2 mm silica, eluted with 1% MeOH/CHCl3) was used to purify the material and yielded 275 mg of free base: GC/El-MS, m/z (rel. int.) 398 (M+ -15,0.1), 293 (21), 292 (100), 163 (10), 121 (19), 114 (9), 91 (5), 90 (45), 71 (13), 70 (14), 58 (9).

reactant | 6-phenylhexylglycidyl ether | 1.44 mmol, 337 mg | C1(=CC=CC=C1)CCCCCCOCC1CO1 | C15H22O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1 mmol, 180 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-[2-hydroxy-3-(6-phenylhexanoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COCCCCCCC1=CC=CC=C1 | C26H39NO3
